* Z:\mnt\design.r\spice\examples\ADP7102-9.0.asc
V1 IN 0 10
C1 OUT 0 2.2µ
Rload OUT 0 50
R1 OUT N001 100k
XU1 IN OUT IN N001 OUT 0 ADP7102 Vref=9
.tran 3m startup
.lib ADP7102.lib
.backanno
.end
